US05567816
A mixture of guanine (25 g) , hexamethyldisilazane (HMDS, 125 ml), and trimethylsilyl trifluoromethanesulfonate (1 ml) was heated to reflux (130°-135° C.) for 24 hours. The resulting mixture was cooled to 70° C., 1,3-dioxolane (25 ml) added, and the resulting mixture refluxed for 16 hours. Excess HMDS and 1,3-dioxolane were removed by distillation under reduced pressure. The reaction mixture was cooled to 70° C., and poured into a mixture of 600 ml of 10% aqueous acetic acid. The mixture was heated to give a solution. The hot solution was treated with a small amount of activated carbon (1.25 g) to remove any color, filtered, and the filtrate slowly cooled to 5° C. The white crystalline solid thus produced was filtered off, to yield pure 9-(2-hydroxyethoxymethyl)guanine (29 g, 78%). 1H NMR: 3.38 (4H, singlet); 4.64 (1H, broad singlet); 5.26 (2H, singlet); 6.54 (2H, broad singlet); 7.68 (1H, singlet).

reactant | guanine | 25 g | N1C(N)=NC=2N=CNC2C1=O | C5H5N5O
reactant | hexamethyldisilazane | 125 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | trimethylsilyl trifluoromethanesulfonate | 1 ml | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | 1,3-dioxolane | 25 ml | O1COCC1 | C3H6O2
product | 9-(2-hydroxyethoxymethyl)guanine | 29 g, 78% | OCCOCN1C=2N=C(NC(C2N=C1)=O)N | C8H11N5O3
